US07713990B2
[3-(3,4-Dichloro-phenoxy)-8-aza-bicyclo[3.2.1]oct-8-yl]acetic acid ethyl ester fumarate
5 g of 3-(3,4-dichloro-phenoxy)-8-aza-bicyclo[3.2.1]octane in 75 ml of N,N-dimethylformamide was first added 1.8 ml of ethyl bromoacetate then 4.5 ml triethylamine. The reaction mixture was stirred overnight at room temperature, then poured into 200 ml of water. The mixture was extracted twice with 150 ml of diethyl ether, the organic phase was dried with sodium sulphate and evaporated into an oil. 5.5 g 94%. 1.5 g of the oil was dissolved in a mixture of ethyl acetate and methanol. The solution was added 0.5 g of fumaric acid and evaporated, the residue was trituated with diethyl ether. Yield 1.3 g 65% Mp. 127-130° C.

reactant | 3-(3,4-dichloro-phenoxy)-8-aza-bicyclo[3.2.1]octane | 5 g | ClC=1C=C(OC2CC3CCC(C2)N3)C=CC1Cl | C13H15Cl2NO
reactant | ethyl bromoacetate | 1.8 ml | BrCC(=O)OCC | C4H7BrO2
reactant | triethylamine | 4.5 ml | C(C)N(CC)CC | C6H15N
reactant | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | [3-(3,4-Dichloro-phenoxy)-8-aza-bicyclo[3.2.1]oct-8-yl]acetic acid ethyl ester fumarate | C(\C=C\C(=O)O)(=O)O.C(C)OC(CN1C2CC(CC1CC2)OC2=CC(=C(C=C2)Cl)Cl)=O | InChI=1S/C17H21Cl2NO3.C4H4O4/c1-2-22-17(21)10-20-11-3-4-12(20)8-14(7-11)23-13-5-6-15(18)16(19)9-13;5-3(6)1-2-4(7)8/h5-6,9,11-12,14H,2-4,7-8,10H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
